US05795983
8 g of ammonium nitrate were introduced at 50° C. with stirring into a solution of 26.3 g of bentazone-sodium in 21.7 g of water, and the reaction mixture was subsequently stirred for a further hour. After cooling to 20° C., the precipitate was filtered off, washed twice with 5 ml of ice water in each case and dried under reduced pressure and at 50° C. 18.9 g of bentazone-ammonium of 99% purity were obtained.

reactant | ammonium nitrate | 8 g | [N+](=O)([O-])[O-].[NH4+]
reactant | bentazone-sodium | 26.3 g | CC(C)N1C(=O)C2=CC=CC=C2[N-]S1(=O)=O.[Na+]
solvent | water | 21.7 g | O | H2O
product | bentazone ammonium | 18.9 g | CC(C)N1C(=O)C2=CC=CC=C2NS1(=O)=O.[NH4+] | InChI=1S/C10H12N2O3S.H3N/c1-7(2)12-10(13)8-5-3-4-6-9(8)11-16(12,14)15;/h3-7,11H,1-2H3;1H3/p+1
